US04518712
In 40 ml of dichloromethane, are dissolved 2.3 g (0.01 mole) of 1-(3-trifluoromethylphenyl)piperazine and 1.0 g (0.01 mole) of triethylamine. To the resulting solution, while being cooled and stirred, is added dropwise a solution of 1.05 g (0.01 mole) of cyclopropanecarbonyl chloride in 10 ml of dichloromethane. The mixture is allowed to react at room temperature for 3 hours. The reaction mixture is washed successively with water, dilute hydrochloric acid and water, then dried over anhydrous sodium sulfate, and removed of the solvent by distillation to obtain oily 1-(cyclopropanecarbonyl)-4-(3-trifluoromethylphenyl)piperazine.

reactant | 1-(3-trifluoromethylphenyl)piperazine | 0.01 mole, 2.3 g | FC(C=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2
reactant | triethylamine | 0.01 mole, 1.0 g | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 0.01 mole, 1.05 g | C1(CC1)C(=O)Cl | C4H5ClO
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(cyclopropanecarbonyl)-4-(3-trifluoromethylphenyl)piperazine | C1(CC1)C(=O)N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | C15H17F3N2O
